US05348962
A suspension of platinum oxide (0.35 g) in ethyl acetate (100 ml) containing methyl 4-chloro-2-(3-nitrophenyl)acetamidobenzoate (9.96 g, 28.6 mmol) was shaken under an atmosphere of hydrogen at 40 psi until hydrogen uptake had ceased. The suspension was filtered and the filtrate evaporated to leave methyl 2-(3-aminophenyl)acetamido-4-chlorobenzoate as a pale green solid (9.22 g); δ(CDCl3) 3.65 (2H, s, CH2), 3.66 (3H, s, OCH3), 6.61 (1H, dd, J 7.9 and 2.1 Hz, ArH), 6.70 (1H, s, ArH), 6.74 (1H, d, J 7.6 Hz, ArH), 7.01 (1H, dd, J 8.6 and 2.0 Hz, 5-H), 7.14 (1H, d, J 7.7 Hz, ArH), 7.89 (1H, d, J 8.6 Hz, 6-H), 8.81 (1H, d, J 2.0 Hz, 3-H) and 11.03 (1H, br s, CONH).

reactant | methyl 4-chloro-2-(3-nitrophenyl)acetamidobenzoate | 28.6 mmol, 9.96 g | ClC1=CC(=C(C(=O)OC)C=C1)NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O | C16H13ClN2O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 0.35 g | [Pt]=O
product | methyl 2-(3-aminophenyl)acetamido-4-chlorobenzoate | 9.22 g | NC=1C=C(C=CC1)CC(=O)NC1=C(C(=O)OC)C=CC(=C1)Cl | C16H15ClN2O3
